US04029780
7-Chloro-3-(4-methyl-1-piperazinyl)-2H-1,2,4-benzothiadiazine 1,1-dioxide
To a solution of 1.0 g of 7-chloro-3-(1-piperazinyl)-2H-1,2,4-benzothiadiazine 1,1-dioxide in 15 ml of dimethylformamide is added dropwise at 0° C. 0.56 g of 93% methyl iodide, in the presence of 0.7 g of anhydrous sodium carbonate. The mixture is stirred for 2 hours, while the temperature is kept at 0° C. After removal of dimethylformamide by distillation under reduced pressure, the resulting residue is triturated with 10 ml of water to precipitate the crystals. The collected precipitate is recrystallized from a mixture of dimethylformamide and water to give 0.4 g of the desired product, m.p. above 300° C.

reactant | 7-chloro-3-(1-piperazinyl)-2H-1,2,4-benzothiadiazine 1,1-dioxide | 1.0 g | ClC1=CC2=C(N=C(NS2(=O)=O)N2CCNCC2)C=C1 | C11H13ClN4O2S
reactant | methyl iodide | 0.56 g | CI | CH3I
reactant | sodium carbonate | 0.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-3-(4-methyl-1-piperazinyl)-2H-1,2,4-benzothiadiazine 1,1-dioxide | 0.4 g | ClC1=CC2=C(N=C(NS2(=O)=O)N2CCN(CC2)C)C=C1 | C12H15ClN4O2S
